********************************************************************************
*           Electronic circuit simulation file generated by gSpiceUI           *
*                         Version 1.1.00 (2015-04-29)                          *
********************************************************************************

* Component Definitions
L1 Vex 1 4.4mH
R1 2 0 220R
R2 2 1 3.6R
* Signal source (V1 0 Vex unknown)
V1 0 Vex GENERATOR(1)

* GNU-Cap Simulation Commands
.OPTIONS PHASE=RADIANS
.PRINT TR V(L1) I(L1)
.GENERATOR AMP=8.00 OFFSET=0.00 INIT=0.00 MIN=0.00 MAX=8.00 DELAY=0.00m RISE=1.00u WIDTH=71.40m FALL=1.00u PERIOD=142.90m
.TR 0.00m 100.00m 1.00u TE 27.00 BASIC

.END
